US07932246B2
2-[5-(Naphthalene-2-sulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidine-5-carboxylic acid
To a suspension of ethyl 2-[5-(naphthalene-2-sulfonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-pyrimidine-5-carboxylate (0.201 g, 0.44 mmol) in ethanol (2 ml) was added 6M NaOH solution (2 ml, 12 mmol). The reaction was heated at 80° C. for 2 h, then cooled to r.t. The pH was adjusted to ˜5 by addition of 2M HCl. The solution was allowed to stand overnight, and the product was collected by filtration to give the title compound (0.154 g, 82%). 1H NMR (300 MHz, d6-DMSO) δ: 2.80-2.95 (2H, m), 3.17 (2H, dd, J=3.6, 10.2 Hz), 3.20-3.30 (2H, m), 3.46 (2H, dd J=7.2, 10.5 Hz), 3.61 (2H, dd, J=6.9, 11.7 Hz), 7.60-7.78 (2H, m), 7.82 (1H, dd, J=1.8, 8.7 Hz), 8.06 (1H, d, J=8.1 Hz), 8.13 (1H, d, J=8.7 Hz), 8.18 (1H, d, J=7.8 Hz), 8.47 (1H, s), 8.59 (2H, s).

reactant | ethyl 2-[5-(naphthalene-2-sulfonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-pyrimidine-5-carboxylate | 0.44 mmol, 0.201 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC2C(C1)CN(C2)C2=NC=C(C=N2)C(=O)OCC | C23H24N4O4S
reactant | NaOH | 12 mmol, 6M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-[5-(Naphthalene-2-sulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidine-5-carboxylic acid | 0.154 g, 82% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC2C(C1)CN(C2)C2=NC=C(C=N2)C(=O)O | C21H20N4O4S
